US06943159B1
7-Amino-3-cyclohexyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide:
To a stirred solution of 7-amino-3-cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide (0.5 g; 2 mmol) in dry THF (10 ml) at −70° C. was added a solution of 1.5 M DIBALH in toluene (2.7 ml; 4 mmol) under N2. The reaction mixture was stirred for 2 h at −70° C.; 2 h at −40° C. and then warmed to 0° C. The reaction was quenched with H2O and stirred for 30 min. at 0° C. and left over night without stirring at +5° C. The mixture was evaporated to dryness, resuspended in MeOH and filtered. The isolated solid was washed thoroughly with MeOH and filtered. The combined filtrates was adsorped onto silica gel. Column chromatography (EtOAc) gave 200 mg of product.

reactant | 7-amino-3-cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 2 mmol, 0.5 g | NC1=CC2=C(N=C(NS2(=O)=O)C2CCCCC2)C=C1 | C13H17N3O2S
reactant | DIBALH | 1.5 M | CC(C)C[AlH]CC(C)C
reactant | toluene | 4 mmol, 2.7 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-Amino-3-cyclohexyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide | 200 mg | NC1=CC2=C(NC(NS2(=O)=O)C2CCCCC2)C=C1 | C13H19N3O2S
